US07429660B2
2-Chloro-5-nitro-benzenesulfinic acid
A solution of 1-chloro-4-nitrobenzene (476 g, 3.02 mol) in chlorosulfonic acid (1 litre) was stirred and heated at 120° C. for 22 hours. The reaction was cooled to room temperature and was poured slowly with stirring onto ice (10 litres). The resulting dark brown precipitate was filtered, pressed dry, dried in a vacuum desiccators over night and was used without any further purification (770 g). The resulting 2-chloro-5-nitro-benzenesulfonyl chloride was suspended in water and cooled to 0° C. (ice bath). Sodium sulphite (1.9 Kg, 15 mol) was added to the stirred solution by portion (100 g portion and in a manner that the temperature remains under 25° C.). After the addition the mixture was allowed to warm back to room temperature and left stirring for one hour. During that time the pH of the solution was kept at pH 7-8 (Whattman pH paper) by addition of 8 M solution of sodium hydroxide (400 ml). The solution was then diluted with water (6 L) and sodium hydroxide was added to it (8 M, 0.5 L). The resulting mixture was filtered through a sintered funnel (number 3). The filtrate was cooled to 0° C. (ice bath) and acidify with concentrated HCl to pH<1. The brown solution then turn green and a silvery green plates precipitate. The solid was filtered, pressed dry and dried in a vacuum desiccator to give the title compound (213 g, 32%).

reactant | 1-chloro-4-nitrobenzene | 3.02 mol, 476 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | Sodium sulphite | 15 mol, 1.9 Kg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chlorosulfonic acid | 1 litre | ClS(=O)(=O)O | ClHO3S
solvent | water | 6 L | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | sodium hydroxide | 400 ml | [OH-].[Na+]
product | 2-Chloro-5-nitro-benzenesulfinic acid | 213 g, 32% | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)O | C6H4ClNO4S
